US03962223
A current of gaseous hydrochloric acid was passed through a mixture of 527 mg of tert.-butyl DL cis 7-tritylamino-3-ethyl-3-cepheme-4-carboxylate in 10 ml of nitromethane at 0°C for 15 minutes and the mixture was evaporated to dryness under reduced pressure. The residue was taken up in ether and the solution was vacuum filtered. The recovered precipitate was dissolved in one ml of water and pyridine was added to adjust the pH to 4. The mixture was vacuum filtered and the precipitate was washed with water, then acetone and ether and dried to obtain 185 mg of DL cis 7-amino-3-ethyl-3-cepheme-4-carboxylic acid melting above 250°C. The product occurred in the form of colorless crystals slightly soluble in water and ethanol and insoluble in ether and acetone.

reactant | hydrochloric acid | Cl | ClH
reactant | cis 7-tritylamino-3-ethyl-3-cepheme-4-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H]1[C@@H]2N(C(=C(CS2)CC)C(=O)[O-])C1=O
solvent | nitromethane | 10 ml | [N+](=O)([O-])C | CH3NO2
product | cis 7-amino-3-ethyl-3-cepheme-4-carboxylic acid | N[C@@H]1[C@@H]2N(C(=C(CS2)CC)C(=O)O)C1=O | C9H12N2O3S
